US06150373
A mixture of 110 mg (0.29 mmol) of 3-(2,6-dichlorophenyl)-7-methanesulfonyl-3,4-dihydro-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one and 0.31 ml (2.9 mmol) of benzylamine was heated at 180° C. for 10 minutes and then cooled. 30 ml of ethyl acetate and 30 ml of 2M aqueous hydrochloric acid were added to the residue. The phases were separated and the organic phase was washed in sequence with 20 ml of 5% aqueous sodium bicarbonate solution and 20 ml of brine, dried over magnesium sulfate, filtered and evaporated to give 93 mg (79%) of 7-benzylamino-3-(2,6-dichlorophenyl)-3,4-dihydro-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one as a white solid of melting point 195-198° C.

reactant | 3-(2,6-dichlorophenyl)-7-methanesulfonyl-3,4-dihydro-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one | 0.29 mmol, 110 mg | ClC1=C(C(=CC=C1)Cl)N1C(N(C2=NC(=NC=C2C1)S(=O)(=O)C)C)=O | C14H12Cl2N4O3S
reactant | benzylamine | 2.9 mmol, 0.31 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | hydrochloric acid | 2M, 30 ml | Cl | ClH
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 7-benzylamino-3-(2,6-dichlorophenyl)-3,4-dihydro-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one | 93 mg, 79% | C(C1=CC=CC=C1)NC1=NC=C2C(=N1)N(C(N(C2)C2=C(C=CC=C2Cl)Cl)=O)C | C20H17Cl2N5O
